US07250522B2
A mixture of 4-chlorophenol (2.0 g, 15.6 mmol), 4-ethylbenzylalcohol (2.12 g, 15.6 mmol) and methanesulfonic acid (80 mg, 0.83 mmol) was heated and stirred at 160° C. for 25 minutes. The reaction mixture was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 4-chloro-2-(4-ethylbenzyl)phenol (1.78 g, 46%) as a light-yellow oil.

reactant | 4-chlorophenol | 15.6 mmol, 2.0 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 4-ethylbenzylalcohol | 15.6 mmol, 2.12 g | C(C)C1=CC=C(CO)C=C1 | C9H12O
reactant | methanesulfonic acid | 0.83 mmol, 80 mg | CS(=O)(=O)O | CH4O3S
product | 4-chloro-2-(4-ethylbenzyl)phenol | 1.78 g, 46% | ClC1=CC(=C(C=C1)O)CC1=CC=C(C=C1)CC | C15H15ClO
